US07507740B2
(ii) Production of 4-chloro-6-(4-methoxyphenyl)-5H-pyrrolo[3,2-d]pyrimidine
6-(4-Methoxyphenyl)-5H-pyrrolo[3,2-d]pyrimidin-4-ol (500 mg) was suspended in N,N-diethylaniline (1.11 mL)/1,2-dichloroethane (3.73 mL), phosphorus oxychloride (2.29 mL) was added, and the mixture was stirred with heating at 110° C. for 2 hrs. After cooling to room temperature, the reaction mixture was treated with ice water (20 mL), and adjusted to pH 7 or above with aqueous ammonia. After diluting with tetrahydrofuran (500 mL), the mixture washed with saturated brine (50 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→20:80) to give the title compound (25 mg).

reactant | 6-(4-Methoxyphenyl)-5H-pyrrolo[3,2-d]pyrimidin-4-ol | 500 mg | COC1=CC=C(C=C1)C1=CC=2N=CN=C(C2N1)O | C13H11N3O2
reactant | 1,2-dichloroethane | 3.73 mL | ClCCCl | C2H4Cl2
reactant | phosphorus oxychloride | 2.29 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | N,N-diethylaniline | 1.11 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 4-chloro-6-(4-methoxyphenyl)-5H-pyrrolo[3,2-d]pyrimidine | 25 mg | ClC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C=C2)OC | C13H10ClN3O
